US07906517B2
2-[(3,5-Bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehyde oxime (241 mg) is dissolved in methanol (10 ml) and thereto is added Raney nickel (0.5 g) and the mixture is stirred under hydrogen atmosphere at room temperature overnight. Raney nickel is removed by filtration and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→0:1) to give (2-aminomethyl-4-trifluoromethyl-phenyl)-(3,5-bis-trifluoromethyl-benzyl)-ethyl-amine (210 mg). MS (m/z): 445 [M+H]+

reactant | 2-[(3,5-Bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehyde oxime | 241 mg | FC(C=1C=C(CN(C2=C(C=NO)C=C(C=C2)C(F)(F)F)CC)C=C(C1)C(F)(F)F)(F)F | C19H15F9N2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | (2-aminomethyl-4-trifluoromethyl-phenyl)-(3,5-bis-trifluoromethyl-benzyl)-ethyl-amine | 210 mg | NCC1=C(C=CC(=C1)C(F)(F)F)N(CC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H17F9N2
